US06201137B1
To a 500 ml flask was added 200 g of THF and 8.8 g of 70 wt. % HClO4 aqueous solution. The solution was cooled to 5° C., titrated with 48.0 g of acetic anhydride over 30 minutes, and then stirred for 8 hours, while maintaining the temperature at 5° C. The reaction is then quenched with 190.5 g of 17 wt. % aqueous solution of sodium hydroxide with stirring, the flask is settled and the water layer is removed. 47.1 g of 30 wt. % aqueous solution of sodium hydroxide is added to the oil layer, which is then heated to 120° C. so as to distill off the unreacted monomer, then 140 g of n-butanol, reflux for 3 hours and saponificate the contents. After settling, the water layer is removed, and 94.0 g of water is added to the oil layer. The contents are refluxed with constant stirring for 15 minutes. The contents in the flask are allowed to settle and cooling. The water layer is removed and the oil layer is rinsed with a water. Further, the oil layer is repeatedly rinsed 3 times by water adjusted to pH 2 to 3 by hydrochloric acid, by water adjusted to a pH 3 to 4 and by non treated water and then the water layer is removed. The oil layer is thereafter dried by a vacuum pump (10-20mm Hg pressure) with heating to 120° C. to obtain PTMG. The obtained polymer is transferred to the 100 ml standard bottle and the color number (JIS K-1557, testing method for polyether for polyurethane) is measured.

reactant | acetic anhydride | 48.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 200 g | C1CCOC1 | C4H8O
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
